US07531532B2
4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [6-(2-fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyrimidin-4-yl]amide
4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide (31 mg) was dissolved in ethanol (1 ml) under a nitrogen atmosphere, and then (S)-(+)-10-camphorsulfonic acid (47 mg) was added thereto, followed by stirring for 5 min. A 0.25 M solution of 2-(4-fluorophenyl)acetyl isothiocyanate in toluene (0.448 ml) was added thereto, followed by stirring for 15 hrs. The reaction mixture was partitioned between ethyl acetate (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (30 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (30 ml), water (30 ml), brine (30 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; heptane:ethyl acetate=1:8, ethyl acetate, then ethyl acetate:ethanol=95:5). Fractions containing the target compound were concentrated under reduced pressure to give a residue, which was then purified by LC-MS. Fractions containing the target compound were concentrated to give a residue, which was then partitioned between ethyl acetate (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (30 ml). The organic layer was washed with brine (30 ml), and dried over anhydrous sodium sulfate. The solvent was evaporated to provide the titled compound (0.9 mg) as a colorless oil.

reactant | 4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 31 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCN(CC2)CCN2CCC2)C=C1)F | C20H26FN7O2
reactant | (S)-(+)-10-camphorsulfonic acid | 47 mg | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | 2-(4-fluorophenyl)acetyl isothiocyanate | FC1=CC=C(C=C1)CC(=O)N=C=S | C9H6FNOS
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | toluene | 0.448 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [6-(2-fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyrimidin-4-yl]amide | 0.9 mg | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCN(CC2)CCN2CCC2)C=CC(=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O | C29H32F2N8O3S
